US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (90 mg) (0.15 mmol) and 34 mg (0.2 mmol) of 2-(aminooxy)-N-hydroxy-2-methylpropionamide hydrochloride are dissolved in 2 ml of absolute dimethylacetamide. After stirring at room temperature for 24 hours the mixture is concentrated in a high vacuum at room temperature and the residue is crystallized from ethanol/diethyl ether. It is filtered off under suction and washed with ether and water. After drying in a high vacuum at room temperature there are obtained 72 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-(hydroxycarbamoyl)-1-methylethoxy]imino]acetamido]-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(3,4dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.15 mmol, 90 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=NC=C1C1=CC(=C(C=C1)O)O)=O | C23H18N6O7S3
reactant | 2-(aminooxy)-N-hydroxy-2-methylpropionamide hydrochloride | 0.2 mmol, 34 mg | Cl.NOC(C(=O)NO)(C)C
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-(hydroxycarbamoyl)-1-methylethoxy]imino]acetamido]-3-[[[5-(3,4-dihydroxyphenyl)-4-pyrimidinyl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 72 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=NC=C1C1=CC(=C(C=C1)O)O)=N/OC(C)(C)C(NO)=O | C27H26N8O9S3
